US05981544
A catalytic quantity of palladium on 10% carbon is added to an orange suspension of 80 mg (0.27 mmol, 1 eq) of 5,6-dihydro-5,6-dioxo-4-nitro-naphtho[1',2':4,5]imidazo-[1,2-a]pyridine in ethanol under argon, and the mixture is brought to reflux. 26.4 μL of hydrazine monohydrate (0.27 mmol, 1 eq) are then added. The reaction mixture immediately becomes violet. After 30 min, 26.4 μL of hydrazine monohydrate (0.27 mmol, 1 eq) are added. After 1 h of reaction, the reaction mixture is allowed to return to ambient temperature and the brown-violet precipitate is filtered through dried cotton and solubilized in 5 mL of conc. hydrochloric acid. This solution is cooled to -10° C., then a solution consisting of 34 mg (0.49 mmol, 1.8 eq) of sodium nitrite and 5 mL of distilled water is added dropwise. The medium is left under agitation at this temperature for 0.5 h. The reaction medium is added dropwise to a solution cooled to -5° C., consisting of 18 mg (0.18 mmol, 0.7 eq) of copper chloride(I) and 5 mL of conc. hydrochloric acid. The agitation is continued for 2.5 h. The reaction mixture is then diluted in dichloromethane, washed successively with a saturated solution of sodium carbonate, then with distilled water. The organic phase is extracted, then dried on sodium sulfate and evaporated to dryness. The raw product is purified on preparation plates (support: silica, eluent: dichloromethane/methanol, 90/10) to produce 10 mg of 4-chloro-5,6-dihydro-5,6-dioxo-naphtho[1',2':4,5]imidazo[1,2-a]pyridine in the form of yellow crystals.

reactant | 5,6-dihydro-5,6-dioxo-4-nitro-naphtho[1',2':4,5]imidazo-[1,2-a]pyridine | 0.27 mmol, 80 mg, 1 eq | O=C1C(C2=C(N=C3N2C=CC=C3)C=3C=CC=C(C13)[N+](=O)[O-])=O | C15H7N3O4
reactant | hydrazine monohydrate | 0.27 mmol, 26.4 μL, 1 eq | O.NN
reactant | hydrazine monohydrate | 0.27 mmol, 26.4 μL, 1 eq | O.NN
reactant | sodium nitrite | 0.49 mmol, 34 mg, 1.8 eq | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 5 mL | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | palladium | [Pd] | Pd
solvent | water | 5 mL | O | H2O
product | 4-chloro-5,6-dihydro-5,6-dioxo-naphtho[1',2':4,5]imidazo[1,2-a]pyridine | 10 mg, Yield: 14% | ClC=1C=2C(C(C3=C(N=C4N3C=CC=C4)C2C=CC1)=O)=O | C15H7ClN2O2
